US06498166B1
2-(4-Fluorophenyl)-3-[4-(methylsulfonyl)phenyl]pyrazolo[1,5-a]pyridine-6-carbonitrile
To a solution of 3-bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carbonitrile (0.24 g 0.76 mmol) in DMF (20 ml) was added 4-methanesulfonylphenylboronic acid (0.202 g 1.1 mmol), ground potassium phosphate (0.45 g 20 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.03 g) and the mixture heated to 90° for 6 h under nitrogen. The cooled mixture was poured into water (200 ml) and extracted with ethyl acetate (3×40 ml). The combined organic phases were washed with water (50 ml), brine (50 ml) and dried. Removal of solvent gave a solid which was purified by biotage chromatography. Elution with cyclohexane:ethyl acetate (4:1) gave the title compound as a white solid (0.019 g 6%). MH+: 392; NMR: (CDCl3) δ 3.14 (3H, s) 7.09 (2H, t) 7.30 (1H, dd) 7.50-7.56 (4H, m) 7.62 (1H, dd) 8.00 (2H, d) 8.9 (1H, s).

reactant | 3-bromo-2-(4-fluorophenyl)pyrazolo[1,5-a]pyridine-6-carbonitrile | 0.76 mmol, 0.24 g | BrC=1C(=NN2C1C=CC(=C2)C#N)C2=CC=C(C=C2)F | C14H7BrFN3
reactant | 4-methanesulfonylphenylboronic acid | 1.1 mmol, 0.202 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | potassium phosphate | 20 mmol, 0.45 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | water | 200 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.03 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(4-Fluorophenyl)-3-[4-(methylsulfonyl)phenyl]pyrazolo[1,5-a]pyridine-6-carbonitrile | 0.019 g, 6% | FC1=CC=C(C=C1)C1=NN2C(C=CC(=C2)C#N)=C1C1=CC=C(C=C1)S(=O)(=O)C | C21H14FN3O2S
